US07834051B2
4-[(4R,5S)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile
To a mixed solution of 4-[(4R,5S)-4-(tert-butyldimethylsilyloxy)-3,3,5-trimethyl-2-oxopyrrolidin-1-yl)]-2-(trifluoromethyl)benzonitrile (391.7 mg) in THF (12 mL) and methanol (12 mL) was added 6 mol/L hydrochloric acid (12.0 mL), and the mixture was stirred at room temperature for 4 hr. The reaction mixture was added to saturated aqueous sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=10/1→1/3) to give the title compound as a colorless oil (yield: 203.6 mg, 66%).

reactant | 2-(trifluoromethyl)benzonitrile | 391.7 mg | FC(C1=C(C#N)C=CC=C1)(F)F | C8H4F3N
reactant | hydrochloric acid | 6 mol/L, 12.0 mL | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | methanol | 12 mL | CO | CH4O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 4-[(4R,5S)-4-hydroxy-3,3,5-trimethyl-2-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile | yield: 203.6 mg, 66% | O[C@@H]1C(C(N([C@H]1C)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)(C)C | C15H15F3N2O2
